US04851526
α-Methyl-4-morpholinepropanol
To 100 mL of CH3CN is added morpholine (9.6 g, 0.11 mol) and 4-chloro-2-butanol (11 g, 0.1 mol). Heat the reaction at reflux and monitor the reaction by thin-layer chromatography. Upon completion of the reaction remove the solvent and add saturated aqueous sodium bicarbonate and ether. Separate the layers and dry the organic phase over Na2SO4. Filter off the drying agent and evaporate the solvent in vacuo to obtain the title compound.

reactant | morpholine | 0.11 mol, 9.6 g | N1CCOCC1 | C4H9NO
reactant | 4-chloro-2-butanol | 0.1 mol, 11 g | ClCCC(C)O | C4H9ClO
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | α-Methyl-4-morpholinepropanol | CC(CCN1CCOCC1)O | C8H17NO2
